US07354932B2
Preparation of 2-[4-(2-methyl-5,6,7,8-tetrahydroquinolin-8-ylamino)-butyl]-isoindole-1,3-dione
To a solution of 2-methyl-5,6,7,8-tetrahydroquinolin-8-ylamine (237 mg, 1.46 mmol) in CH2Cl2 (20 mL) at room temperature under inert atmosphere was added 4-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-butyraldehyde (159 mg, 0.731 mmol) followed by sodium triacetoxyborohydride (309 mg, 2.92 mmol). The reaction mixture was stirred at room temperature for 2 hours. Saturated sodium bicarbonate solution (10 mL) was added and the mixture was extracted with dichloromethane (3×20 mL). The combined organic extracts were washed with brine, dried (MgSO4), filtered and concentrated. The resultant material was purified by column chromatography on silica gel (10:1:0.5 CH2Cl2: MeOH: NH4OH) to provide the product as a yellow oil (210 mg, 79%): 1H NMR (CDCl3): δ 1.56-1.83 (m, 6H), 1.90-2.04 (m, 2H), 2.04-2.18 (m, 2H), 2.47 (s, 3H), 2.64-2.80 (m, 4H), 3.70-3.76 (m, 3H), 6.90 (d, 1H, J=7.8 Hz), 7.24 (d, 1H, J=7.8 Hz), 7.69-7.73 (m, 2H), 7.81-7.85 (m, 2H).

reactant | 2-methyl-5,6,7,8-tetrahydroquinolin-8-ylamine | 1.46 mmol, 237 mg | CC1=NC=2C(CCCC2C=C1)N | C10H14N2
reactant | 4-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-butyraldehyde | 0.731 mmol, 159 mg | O=C1N(C(C2=CC=CC=C12)=O)CCCC=O | C12H11NO3
reactant | sodium triacetoxyborohydride | 2.92 mmol, 309 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | 10 mL | C([O-])(O)=O.[Na+]
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-[4-(2-methyl-5,6,7,8-tetrahydroquinolin-8-ylamino)-butyl]-isoindole-1,3-dione | 210 mg, 79% | CC1=NC=2C(CCCC2C=C1)NCCCCN1C(C2=CC=CC=C2C1=O)=O | C22H25N3O2
